US07566712B2
Stir the solution of 2,3-dichloro-4-(3-chloro-4-fluoro-phenyl)-pyridine (100 mg) in morpholine (2 mL) 3 hours at 80° C., concentrate, partition between H2O and EtOAc, dry over Na2SO4, and concentrate under vacuum. Purify by preparative TLC (3:1 hexanes/EtOAc) to give 4-[6-chloro-4-(3-chloro-4-fluoro-phenyl)-pyridin-2-yl]-morpholine.

reactant | 2,3-dichloro-4-(3-chloro-4-fluoro-phenyl)-pyridine | 100 mg | ClC1=NC=CC(=C1Cl)C1=CC(=C(C=C1)F)Cl | C11H5Cl3FN
reactant | morpholine | 2 mL | N1CCOCC1 | C4H9NO
product | 4-[6-chloro-4-(3-chloro-4-fluoro-phenyl)-pyridin-2-yl]-morpholine | ClC1=CC(=CC(=N1)N1CCOCC1)C1=CC(=C(C=C1)F)Cl | C15H13Cl2FN2O
